US04167576
D. 1-[2-cyano-2-(4-phenylthiophenyl)hexyl]imidazole
A mixture of 10 g (0.027 mole) of 2-cyano-2-(4-phenylthiophenyl) hexyl bromide and 8 g (0.13 mole) of imidazole is heated with stirring at 160° for four hours. The reaction mixture is poured into water and extracted with ether. The combined ether extracts were washed with water and dried over Na2SO4. The drying agent is filtered and to the filtrate is bubbled dry hydrogen chloride gas until solution is strongly acidic. The hydrochloride salt is washed with ether and back neutralized with dilute ammonium hydroxide solution to give 8 g of pure product.

reactant | 2-cyano-2-(4-phenylthiophenyl) hexyl bromide | 0.027 mole, 10 g | C(#N)C(CBr)(CCCC)C1=CC=C(C=C1)SC1=CC=CC=C1 | C19H20BrNS
reactant | imidazole | 0.13 mole, 8 g | N1C=NC=C1 | C3H4N2
solvent | water | O | H2O
product | 1-[2-cyano-2-(4-phenylthiophenyl)hexyl]imidazole | 8 g | C(#N)C(CN1C=NC=C1)(CCCC)C1=CC=C(C=C1)SC1=CC=CC=C1 | C22H23N3S
